US09370522B2
A solution of 3-methoxybenzoic acid (20 g, 131.58 mmol, 1.00 equiv) in MeOH (100 mL) and H2SO4 (13 g, 130.00 mmol, 1.00 equiv, 98%) was allowed to react, with stirring in a 250-mL round-bottom flask, overnight under reflux. The reaction was quenched by the addition of 100 mL of water/ice, extracted with 3×100 mL of dichloromethane, and the organic layers combined and dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum yielding 21 g (96%) of methyl 3-methoxybenzoate as yellow oil.

reactant | 3-methoxybenzoic acid | 131.58 mmol, 20 g, 1.00 equiv | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | H2SO4 | 130.00 mmol, 13 g, 1.00 equiv | OS(=O)(=O)O | H2O4S
reactant | MeOH | 100 mL | CO | CH4O
product | methyl 3-methoxybenzoate | 21 g, 96% | COC=1C=C(C(=O)OC)C=CC1 | C9H10O3
